US05922771
2,2,2-Trifluoro-N-(2-(5-methoxy-1H-inden-3-yl)ethyl]acetamide
To a solution of (E)-2-(6-methoxyindan-1-ylidene)ethylamine (0.4 g, 2.11 mmol.), trifluoroacetic anhydride (0.53 g, 2.53 mmol.) and trifluoroacetic acid (0.48 g, 4.22 mmol.) in dichloromethane (20 ml) was added triethylamine (0.85 g, 8.44 mmol.) dropwise gradually under ice-cooling. The mixture was stirred for one hour at room temperature, then the reaction mixture was poured into water. The organic substance was extracted with chloroform. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=15:85), followed by recrystallization from isopropyl ether/hexane to afford the titled compound (yield 0.20 g, 33%), m.p.87-88° C. (recrystallized from isopropyl ether/hexane).

reactant | (E)-2-(6-methoxyindan-1-ylidene)ethylamine | 2.11 mmol, 0.4 g | COC1=CC=C2CC/C(/C2=C1)=C\CN | C12H15NO
reactant | trifluoroacetic anhydride | 2.53 mmol, 0.53 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 4.22 mmol, 0.48 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 8.44 mmol, 0.85 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2,2,2-Trifluoro-N-(2-(5-methoxy-1H-inden-3-yl)ethyl]acetamide | FC(C(=O)NCCC1=CCC2=CC=C(C=C12)OC)(F)F | C14H14F3NO2
